US04013670
Using the method of Example 37, 2,5-bis(2,2,2-trifluoroethoxy)-N-[(1-ethyl-2-piperidyl)methyl]benzamide is reacted with methyl iodide to provide 2-[2,5-bis(2,2,2-trifluoroethoxy)benzamidomethyl]-1-ethyl-1-methylpiperidinium iodide as a white solid, m.p. 162°-165° C.

reactant | 2,5-bis(2,2,2-trifluoroethoxy)-N-[(1-ethyl-2-piperidyl)methyl]benzamide | FC(COC1=C(C(=O)NCC2N(CCCC2)CC)C=C(C=C1)OCC(F)(F)F)(F)F | C19H24F6N2O3
reactant | methyl iodide | CI | CH3I
product | 2-[2,5-bis(2,2,2-trifluoroethoxy)benzamidomethyl]-1-ethyl-1-methylpiperidinium iodide | [I-].FC(COC1=C(C(=O)NCC2[N+](CCCC2)(C)CC)C=C(C=C1)OCC(F)(F)F)(F)F | InChI=1S/C20H26F6N2O3.HI/c1-3-28(2)9-5-4-6-14(28)11-27-18(29)16-10-15(30-12-19(21,22)23)7-8-17(16)31-13-20(24,25)26;/h7-8,10,14H,3-6,9,11-13H2,1-2H3;1H
